US07183311B2
8-Methoxy-2-ureido-4,5-dihydro-naphtho[1,2-b]thiophene-3-carboxylic acid amide
The title compound was prepared by the same procedure as Example 2 except 2-amino-4H-indeno[1,2-b]thiophene-3-carboxylic acid amide was replaced with 2-amino-8-methoxy-4,5-dihydro-naphtho[1,2-b]thiophene-3 carboxylic acid amide trifluoroacetate to give the above title compound as brown solid. ESMS m/z: 318 [M+H]+.

reactant | 2-amino-4H-indeno[1,2-b]thiophene-3-carboxylic acid amide | NC1=C(C2=C(S1)C1=CC=CC=C1C2)C(=O)N | C12H10N2OS
reactant | 2-amino-8-methoxy-4,5-dihydro-naphtho[1,2-b]thiophene-3 carboxylic acid amide trifluoroacetate | FC(C(=O)O)(F)F.NC1=C(C2=C(S1)C1=CC(=CC=C1CC2)OC)C(=O)N
product | 8-Methoxy-2-ureido-4,5-dihydro-naphtho[1,2-b]thiophene-3-carboxylic acid amide | COC1=CC=C2CCC3=C(SC(=C3C(=O)N)NC(=O)N)C2=C1 | C15H15N3O3S
